US05102667
A 5.4N solution (0.7 cc) of ammonia in ethanol is added to a stirred suspension of (3aRS,7aRS)-2-[1-ethoxy-2-(cyclohexa-1,4-dien-1-yl)-ethylidene]-4-oxo-7,7-diphenyl-perhydroisoindolium tetrafluoborate (2 g) in anhydrous dichloromethane (30 cc), which is cooled to -15° C. After the temperature has returned to ambient temperature, the reaction mixture is stirred for 20 hours and then washed with a 20% aqueous potassium carbonate solution (2×35 cc). The organic phase is dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is crystallized from acetonitrile (5 cc). The crystals obtained are drained, washed with acetonitrile and dried. (3aRS,7aRS)-2-[-2-(cyclohexa-1,4-dien-1-yl)-1-iminoethyl]-7,7-diphenyl-4-perhydroisoindolone (0.6 g) is obtained in the form of white crystals. m.p.=190° C.

reactant | ammonia | N | H3N
reactant | (3aRS,7aRS)-2-[1-ethoxy-2-(cyclohexa-1,4-dien-1-yl)-ethylidene]-4-oxo-7,7-diphenyl-perhydroisoindolium | 2 g | C(C)OC(CC1=CCC=CC1)=[N+]1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ethanol | C(C)O | C2H6O
solvent | dichloromethane | 30 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-2-[-2-(cyclohexa-1,4-dien-1-yl)-1-iminoethyl]-7,7-diphenyl-4-perhydroisoindolone | 0.6 g | C1(=CCC=CC1)CC(=N)N1CC2C(CCC(C2C1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H30N2O
